US05077409
3-(Tetradecyloxy)benzeneacetic acid, methyl ester
A mixture of 46.5 g of 3-hydroxybenzeneacetic acid methyl ester, 77.6 g n-tetradecyl bromide and 42.54 g of potassium carbonate in 500 ml of acetone is refluxed for 24 hours. Another 15.5 g of potassium carbonate is added and reflux continued for another 24 hours. An additional 15.5 g of potassium carbonate is added and reflux continued for another 24 hours. The mixture is filtered and the filtrate evaporated to a residue which is poured into water and extracted with ether. The organic layer is dried and evaporated to a residue which is crystallized from hexane to give 45 g of the desired product as a white solid, m.p. 31°-33° C.

reactant | 3-hydroxybenzeneacetic acid methyl ester | 46.5 g | COC(CC1=CC(=CC=C1)O)=O | C9H10O3
reactant | n-tetradecyl bromide | 77.6 g | C(CCCCCCCCCCCCC)Br | C14H29Br
reactant | potassium carbonate | 42.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 15.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 15.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 3-(Tetradecyloxy)benzeneacetic acid, methyl ester | 45 g | C(CCCCCCCCCCCCC)OC=1C=C(C=CC1)CC(=O)OC | C23H38O3
